US04658049
2-Allyloxypropionic acid ethyl ester (147.2 g, 0.93 mol), water (300 ml) and NaOH (44.7 g) were fed into a flask, followed by agitating the mixture for about 5 to 6 hours while the reaction temperature was kept at about 60° C., thereafter dropwise adding conc. hydrochloric acid (90 ml) under ice cooling, extracting the resulting deposited oily substance with isopropyl ether, drying over MgSO4 and carrying out vacuum distillation to obtain 2-allyloxypropionic acid (95.7 g, 108° C./5 mmHg). Yield: 79%.

reactant | 2-Allyloxypropionic acid ethyl ester | 0.93 mol, 147.2 g | C(C)OC(C(C)OCC=C)=O | C8H14O3
reactant | NaOH | 44.7 g | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
product | 2-allyloxypropionic acid | 95.7 g, Yield: 79% | C(C=C)OC(C(=O)O)C | C6H10O3
